US06455521B1
In the same manner as in Starting Material Synthesis Example 4 and using ethyl 2-aminobenzo[b]thiophene-3-carboxylate (6.0 g), 2,5-dibromonitrobenzene (8.5 g) and dimethyl sufoxide (70 ml), crude crystals (7.3 g) of ethyl 2-(4-bromo-2-nitroanilino)benzo[b]thiophene-3-carboxylate were obtained. Without purification, in the same manner as in Starting Material Synthesis Example 21 and using ethanol (70 ml), 18% hydrochloric acid (70 ml) and tin(II) chloride-dihydrate (15.7 g), ethyl 2-(2-amino-4-bromoanilino)benzo[b]thiophene-3-carboxylate (3.3 g) was obtained.

reactant | ethyl 2-aminobenzo[b]thiophene-3-carboxylate | 6.0 g | NC1=C(C2=C(S1)C=CC=C2)C(=O)OCC | C11H11NO2S
reactant | 2,5-dibromonitrobenzene | 8.5 g | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | ethyl 2-(4-bromo-2-nitroanilino)benzo[b]thiophene-3-carboxylate | BrC1=CC(=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=C1)[N+](=O)[O-] | C17H13BrN2O4S
reactant | hydrochloric acid | 70 ml | Cl | ClH
reactant | tin(II) chloride-dihydrate | 15.7 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | ethyl 2-(2-amino-4-bromoanilino)benzo[b]thiophene-3-carboxylate | 3.3 g | NC1=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=CC(=C1)Br | C17H15BrN2O2S
